US08871756B2
2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methyl-N-(piperidin-4-yl)quinolin-4-amine
The title compound was prepared in analogy to Example 3-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and piperidin-4-amine. MS obsd. (ESI+) [(M+H)+] 437, 1H NMR (400 MHz, CD3OD) δ ppm 8.05 (t, J=8 Hz, 2 H), 7.88 (d, J=8 Hz, 1 H), 7.73-7.69 (m, 2 H), 7.59-7.57 (m, 2 H), 6.04 (s, 1 H), 5.33 (s, 2 H), 4.52 (s, 2 H), 4.18-4.11 (m, 1 H), 3.74 (s, 2 H), 3.61-3.57 (m, 2 H), 3.33-3.26 (m, 2 H), 2.46 (s, 3 H), 2.24-2.19 (m, 2 H), 2.01-1.91 (m, 2 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | piperidin-4-amine | N1CCC(CC1)N | C5H12N2
product | 2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methyl-N-(piperidin-4-yl)quinolin-4-amine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NC2CCNCC2)C)=O | C24H28N4O2S
